US04704459
In 1.5 ml of chloroform was suspended 50 mg of 3-aminopyrrolidine dihydrochloride, and 110 mg of triethylamine was added thereto after which the resulting mixture was subjected to reaction at room temperature for 10 minutes. Thereafter, 150 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinyl]acetate was added thereto, and the resulting mixture was subjected to reaction at room temperature for 1.5 hours. Subsequently, to the reaction mixture were added 5 ml of chloroform and 5 ml of water, and the organic layer was separated, washed successively with 5 ml of water and 5 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of diisopropyl ether, after which crystals were collected by filtration to obtain 110 mg (yield 93.2%) of ethyl 2-[6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinyl]acetate. The physical properties of this compound were identical with those of the compound obtained in Example 29.

reactant | 3-aminopyrrolidine dihydrochloride | 50 mg | Cl.Cl.NC1CNCC1
reactant | triethylamine | 110 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinyl]acetate | 150 mg | FC1=C(C=CC(=C1)F)NC1=C(CCC(=O)OCC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C25H25F3N2O5S
reactant | diisopropyl ether | 2 ml | C(C)(C)OC(C)C | C6H14O
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 5 ml | O | H2O
product | ethyl 2-[6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinyl]acetate | 110 mg, yield 93.2% | NC1CN(CC1)C1=NC(=C(CCC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C20H23F3N4O2
